US08258175B2
Distilled THF (25 mL) was added to 2-(4-chlorobenzoyl)benzoic acid (1 g, 3.8 mmol) followed by thionyl chloride (0.55 mL, 7.6 mmol) and a catalytic amount of DMF (3 drops). The system was stirred under nitrogen for 4 h at room temperature and monitored by TLC. Removal of the solvent gave 3-chloro-3-(4-chlorophenyl)-3H-isobenzofuran-1-one as a colourless oil (1.06 g, 3.8 mmol, 100%).

reactant | 2-(4-chlorobenzoyl)benzoic acid | 3.8 mmol, 1 g | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9ClO3
reactant | thionyl chloride | 7.6 mmol, 0.55 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 3-chloro-3-(4-chlorophenyl)-3H-isobenzofuran-1-one | 3.8 mmol, 1.06 g, 100% | ClC1(OC(C2=CC=CC=C12)=O)C1=CC=C(C=C1)Cl | C14H8Cl2O2
